US06492522B1
Benzyl chloride (54.4 g) and sodium carbonate (149.4 g) were added to the solution of the acetic acid salt of diethyl (4-piperidylmethyl)malonate [XXIXb] from the previous step. The obtained slurry was stirred for 12 hours at 60-65° C. and evaporated under reduced pressure. Water was added to the residue and the obtained mixture was extracted with dichloromethane. The organic layer was washed with water, dried over sodium sulfate, passed through short silica gel column and evaporated under reduced pressure. The obtained residue was washed with hexanes and dried under reduced pressure to give diethyl (N-benzyl-4-piperidylmethyl)malonate [XXIIb].

reactant | Benzyl chloride | 54.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium carbonate | 149.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl (4-piperidylmethyl)malonate | N1CCC(CC1)CC(C(=O)OCC)C(=O)OCC | C13H23NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | diethyl (N-benzyl-4-piperidylmethyl)malonate | C(C1=CC=CC=C1)N1CCC(CC1)CC(C(=O)OCC)C(=O)OCC | C20H29NO4
